US07781478B2
A tube is charged with a mixture of 5-bromo-1-ethyl-1H-indole-3-carbonitrile (100 mg, 0.40 mmol), thiophene-3-boronic acid (72 mg, 0.56 mmol), PdCl2(PPh3)2 (11 mg, 0.016 mmol) and CsF (152 mg, 1 mmol) and then alternately evacuated and filled with nitrogen (3×) and diluted with dimethoxyethane (3 mL) and then heated to 90° C. for 19 h. After cooling, the crude reaction mixture is diluted with saturated NaHCO3 and extracted with EtOAc (2×). The combined organic phases are washed with saturated NaCl and dried and concentrated. Flash chromatography over silica gel (CH2Cl2/hexanes, 40/60) gives 25 mg (25%) of 1-ethyl-5-thiophen-3-yl-1H-indole-3-carbonitrile as a white solid.

reactant | 5-bromo-1-ethyl-1H-indole-3-carbonitrile | 0.40 mmol, 100 mg | BrC=1C=C2C(=CN(C2=CC1)CC)C#N | C11H9BrN2
reactant | thiophene-3-boronic acid | 0.56 mmol, 72 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | CsF | 1 mmol, 152 mg | [F-].[Cs+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(PPh3)2 | 0.016 mmol, 11 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-ethyl-5-thiophen-3-yl-1H-indole-3-carbonitrile | 25 mg, 25% | C(C)N1C=C(C2=CC(=CC=C12)C1=CSC=C1)C#N | C15H12N2S
